US08222245B2
[8-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]acetic acid
1,1-Dimethylethyl [8-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]acetate (Preparation 37) (0.13 g, 0.260 mmol) was dissolved in 1,4-dioxane (1 ml) and 4M HCl (4 ml, 16.00 mmol) in dioxan was added and the reaction mixture was left at room temperature for 24 hours. Then the reaction mixture was evaporated, triturated with ether and the resulting solid filtered off. The solid was dissolved in 5 ml of 2M sodium hydroxide and acidified with acetic acid when solid separated. Attempted to dissolve in EtOAc but insoluble so filtered off and washed well with water, acetone and ether to give the title compound (44 mgs) as a white solid. δH (400 MHz, d6DMSO) 1.36 (6H, d), 3.13 (2H, br. s), 3.96 (2H, s), 4.08 (2H, br. s), 4.89 (1H, m), 7.38 (1H, d), 7.44 (1H, d), 7.61 (1H, s), 7.72 (1H, d), 8.11 (1H, d), 8.18 (1H, d), (remaining 2H signal obscured by solvent peak); MS (ES) C22H2235ClN3O5 requires 443; found 444 [M+H]+.

reactant | 1,1-Dimethylethyl [8-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]acetate | 0.260 mmol, 0.13 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CN(CCO2)CC(=O)OC(C)(C)C)C=C1 | C26H30ClN3O5
reactant | HCl | 16.00 mmol, 4M, 4 ml | Cl | ClH
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | [8-(5-{3-Chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]acetic acid | 44 mgs | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CN(CCO2)CC(=O)O)C=C1 | C22H22ClN3O5
